US05177075
3,4-Dihydro-5-[2-hydroxy-3-(1-piperidinyl)propoxy]-1(2H)-isoquinolinone
A mixture of 3.0 g (13.7 mmol) of 3,4-Dihydro-5-(2-oxiranylmethoxy)-1(2H)-isoquinolinone, 1.4 g of piperidine (13.7 mmol), and 30 ml of ethanol was heated at reflux for five hours. The mixture was concentrated and the residue was recrystallized from ethanol/acetone (2/3) to give 2.78 g (67%) of the desired product; mp 162°-164°.

reactant | 3,4-Dihydro-5-(2-oxiranylmethoxy)-1(2H)-isoquinolinone | 13.7 mmol, 3.0 g | O1C(C1)COC1=C2CCNC(C2=CC=C1)=O | C12H13NO3
reactant | piperidine | 13.7 mmol, 1.4 g | N1CCCCC1 | C5H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,4-Dihydro-5-[2-hydroxy-3-(1-piperidinyl)propoxy]-1(2H)-isoquinolinone | 2.78 g, 67% | OC(COC1=C2CCNC(C2=CC=C1)=O)CN1CCCCC1 | C17H24N2O3
